US05739150
(Thiophene-2-yl)(4-piperidinyl)methanone.
Mix 4-[(thiophene-2-yl)carbonyl]-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester (12.9 g, 43.67 mmol) and trifluoroacetic acid (80 mL) and stir at room temperature for 2 hours. Cool in an ice/water bath and dilute with ethyl ether. Collect the resulting solid by filtration, wash with ethyl acetate and recrystallize (methanol/ethyl ether) to give the title compound as an off-white solid; mp 186°-187° C.

reactant | 4-[(thiophene-2-yl)carbonyl]-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester | 43.67 mmol, 12.9 g | S1C(=CC=C1)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C15H21NO3S
reactant | trifluoroacetic acid | 80 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | (Thiophene-2-yl)(4-piperidinyl)methanone | S1C(=CC=C1)C(=O)C1CCNCC1 | C10H13NOS
